US05158953
A mixture of 2-bromomethyl-2,3-dihydroimidazo[1,2-c]-quinazolin-5(6H)-one (0.5 g, 1.78 mmol), N-phenylpiperazine (0.28 mL, 3.56 mmol) in acetonitrile (25 mL) was refluxed for 13 hours. The hot mixture was filtered and washed with acetonitrile (10 mL) to give 2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydroimidazo[1,2-c]-quinazolin-5(6H)-one (490 mg, 76%). An analytical sample was prepared from a mixture of acetonitrile and methanol (1:1), mp 257°-258° C. ms: m/z 361 (M+). 1H NMR (300 MHz, DMSO-d6): δ2.43-2.73 (m, 7H, CH2), 3.11 (t, 3H, CH2), 3.65 (q, 1H, CH), 3.91 (t, 1H, CH), 4.41 (m, 1H, CH), 6.75 (t, 1H, Ar--H), 6.91 (d, 2H, Ar--H), 7.06 (q, 2 H, Ar--H), 7.17 (q, 2H, Ar--H), 7.48 (p, 1H, Ar--H), 7.78 (d, 1H, Ar--H), 10.53 (s, 1H, NH). Anal. Calcd for C21H23N5O: C, 69.78; H, 6.41; N, 19.38. Found: C, 69.79; H, 6.45; N, 19.37.

reactant | 2-bromomethyl-2,3-dihydroimidazo[1,2-c]-quinazolin-5(6H)-one | 1.78 mmol, 0.5 g | BrCC1N=C2N(C(NC=3C=CC=CC23)=O)C1 | C11H10BrN3O
reactant | N-phenylpiperazine | 3.56 mmol, 0.28 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydroimidazo[1,2-c]-quinazolin-5(6H)-one | 490 mg, 76% | C1(=CC=CC=C1)N1CCN(CC1)CC1N=C2N(C(NC=3C=CC=CC23)=O)C1 | C21H23N5O
